US07323604B2
To a 0° C. solution of (E)-ethyl 3-cyclohexylbut-2-enoate (Appella et al. (1999), J. Am. Chem. Soc. 121:9473) (1 g, 5.09 mmol) in dry Et2O (10 mL) was added a solution of lithium aluminum hydride (5.10 mL, 5.10 mmol, 1 M in Et2O). After 5 minutes, the reaction mixture was neutralized by dropwise addition of THF solution followed by addition of a saturated solution of potassium sodium tartrate. The reaction mixture was stirred for 25 minutes, and then diluted with Et2O. The organic layer was separated and washed with water, dried over Na2SO4 and concentrated in vacuo to afford (E)-3-cyclohexylbut-2-en-1-ol as a colorless oil which was used directly in the following reaction.

reactant | (E)-ethyl 3-cyclohexylbut-2-enoate | 5.09 mmol, 1 g | C1(CCCCC1)/C(=C/C(=O)OCC)/C | C12H20O2
reactant | lithium aluminum hydride | 5.10 mmol, 1 M, 5.10 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | C1CCOC1 | C4H8O
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (E)-3-cyclohexylbut-2-en-1-ol | C1(CCCCC1)/C(=C/CO)/C | C10H18O
